US04183909
2.2 g (5.3 mmoles) of H-Leu-Asp-L-Phg-NH2.HCl, prepared as described in Example 6, Step 3, are reacted with 2.32 g (5.8 mmoles) of BOC-Trp-OSu in 50 ml of DMF in the presence of 1.48 ml (10.6 mmoles) of triethylamine. Next day the reaction mixture is evaporated in vacuo and the residue is triturated with water. The obtained crude product, weighing 3.30 g, is crystallized from 70 ml of 80% ethanol under decolourizing. 2.30 g (65%) of BOC-Trp-Leu-Asp-L-Phg-NH2 are obtained; m.p.: 205°-207° C. (decomposition), Rf5 : 0.40, [α]D : -7.3° (c: 1.0, in dimethyl formamide).

reactant | H-Leu-Asp-L-Phg-NH2.HCl | 5.3 mmoles, 2.2 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](C1=CC=CC=C1)C(=O)N.Cl
reactant | BOC-Trp-OSu | 5.8 mmoles, 2.32 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H23N3O6
reactant | triethylamine | 10.6 mmoles, 1.48 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | BOC-Trp-Leu-Asp-L-Phg-NH2 | 2.30 g, 65% | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C34H44N6O8
